US07279469B2
A mixture of 1-(2-chloro-ethoxy)-2-methoxy-4-nitro-benzene (0.60 g, 2.59 mmol), morpholine (0.28 mL, 3.11 mmol), sodium iodide (0.39 g, 2.59 mmol) and potassium carbonate (0.71 g, 5.18 mmol), in ethanol (5 mL) was heated in a sealed tube at 90° C. for 18 h, was cooled, filtered and evaporated. Purification by flash chromatography (SiO2) eluted with 2:98 methanol:dichloromethane provided 4-[2-(2-methoxy-4-nitro-phenoxy)-ethyl]-morpholine (0.37 g, 51% yield) as a pale yellow solid. 1H-NMR (DMSO-d6, 500 MHz) 7.89 (dd, 1H), 7.74 (d, 1H), 7.21 (d, 1H), 4.23 (t, 2H), 3.88 (s, 3H), 3.88 (m, 4H), 2.73 (t, 2H), 2.50 (m, 4H) ppm; MS (FIA) 283.2 (M+H); HPLC (Method A) 2.652 min.

reactant | 1-(2-chloro-ethoxy)-2-methoxy-4-nitro-benzene | 2.59 mmol, 0.60 g | ClCCOC1=C(C=C(C=C1)[N+](=O)[O-])OC | C9H10ClNO4
reactant | morpholine | 3.11 mmol, 0.28 mL | N1CCOCC1 | C4H9NO
reactant | sodium iodide | 2.59 mmol, 0.39 g | [I-].[Na+]
reactant | potassium carbonate | 5.18 mmol, 0.71 g | C([O-])([O-])=O.[K+].[K+]
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[2-(2-methoxy-4-nitro-phenoxy)-ethyl]-morpholine | 0.37 g, 51% yield | COC1=C(OCCN2CCOCC2)C=CC(=C1)[N+](=O)[O-] | C13H18N2O5
